*---------------------------------------------------------------
*  *** Spice model ***
*
*  Copyright (C) Panasonic Industry Corporation
*
*  Conductive Polymer Aluminum Electrolytic Capacitor (SP-Cap)
*
*  Parts No. EEFSX0G101ER
*---------------------------------------------------------------
*  Capacitance : 100 uF , Rated Voltage : 4 V
*  ESR Max. : 9 mohm @100kHz
*
*  1  o---||---o  2
*
*  Conditions : Temperature = 20 degC , DC Bias = 0 V
*
*---------------------------------------------------------------
.SUBCKT	EEFSX0G101ER	1	2
R1	1	3	5.19E-03
R2	3	4	1.70E-01
R3	4	5	3.18E+00
R4	5	6	2.01E+02
R5	6	7	1.51E+03
C1	3	8	8.08E-05
C2	4	8	1.66E-05
C3	5	8	3.31E-06
C4	6	8	9.23E-07
C5	7	8	9.02E-07
R6	8	9	2.69E-04
R7	9	10	2.70E-03
R8	10	11	6.97E-01
R9	11	12	1.25E+01
R10	12	13	1.92E+02
L1	9	2	3.79E-09
L2	10	2	2.40E-09
L3	11	2	9.63E-09
L4	12	2	1.92E-08
L5	13	2	2.47E-08
.ENDS			
*$			
